US05599814
c. Dimethyl 5,7-dichloro-4-hydroxyquinoline-2,3-dicarboxylate
A solution of methyl 2-amino-4,6-dichlorobenzoate (1.30 g, 5.91 mM) and dimethyl acetylenedicarboxylate (0.96 g, 6.78 mM) in t-butanol (14 mL) was refluxed for 18 hr under a nitrogen atmosphere. The reaction mixture was cooled to room temperature and potassium t-butoxide (0.76 g, 6.8 mM) was added to the stirred mixture whereupon a precipitate formed. After refluxing for 1.5 hr, the reaction mixture was cooled to room temperature and filtered to separate the precipitated solids. The solids were washed with t-butanol and then dissolved in water. The resulting solution was acidified with IN H2SO4 and the resulting precipitate was collected, washed thoroughly with water and dried to give the title compound as a light green solid (1.15 g, 59%). An analytical sample was obtained by recrystallization of a portion from toluene to provide the title compound as a light tan solid, mp 109.5°-111° C. (d); MS(CI): 330 (M+H).

reactant | methyl 2-amino-4,6-dichlorobenzoate | 5.91 mM, 1.30 g | NC1=C(C(=O)OC)C(=CC(=C1)Cl)Cl | C8H7Cl2NO2
reactant | dimethyl acetylenedicarboxylate | 6.78 mM, 0.96 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | potassium t-butoxide | 6.8 mM, 0.76 g | CC(C)([O-])C.[K+]
solvent | t-butanol | 14 mL | C(C)(C)(C)O | C4H10O
product | Dimethyl 5,7-dichloro-4-hydroxyquinoline-2,3-dicarboxylate | 1.15 g, 59% | ClC1=C2C(=C(C(=NC2=CC(=C1)Cl)C(=O)OC)C(=O)OC)O | C13H9Cl2NO5
